US07288544B2
3) Synthesis of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenyl-2-propen-1-yl)-5-pyrimidinecarboxamide:
413 mg (1.21 mmol) of 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propen-1-yl) acrylamide was dissolved in 10 ml of DMF. 269 mg (0.968 mmol) of methylisothiourea-sulfate and 149 mg of (1.82 mmol) of sodium acetate were added thereto at room temperature and stirred at 100° C. for 2 days. DMF was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propen-1-yl) acrylamide | 1.21 mmol, 413 mg | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C20H18ClNO2
reactant | methylisothiourea sulfate | 0.968 mmol, 269 mg | CNC(S)=N.S(=O)(=O)([O-])[O-]
reactant | sodium acetate | 1.82 mmol, 149 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenyl-2-propen-1-yl)-5-pyrimidinecarboxamide | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C(=O)NCC=CC1=CC=CC=C1)C)SC | C22H20ClN3OS
